//============================================
// To extract DIBL coefficient
// Id ~ VDS (VGS=0)
//============================================

//============================================
// Define VDD and VSS
//============================================

VVDD (VDD 0) vsource dc=pvdd
VVSS (VSS 0) vsource dc=0


//============================================
// Gate bias
//============================================

VVGS1 (VGS1 VDD) vsource dc=0
VVGS2 (VGS2 VDD) vsource dc=-0.1*pvdd
VVGS3 (VGS3 VDD) vsource dc=-0.2*pvdd

//============================================
// Drain bias
//============================================

VVDS (VDS VDD) vsource dc=-pvdd


//============================================
// Test transistor
//============================================

P1 (VDS VGS1 VDD VDD) PU_TRANSISTOR width=wpu length=lpu
P2 (VDS VGS2 VDD VDD) PU_TRANSISTOR width=wpu length=lpu
P3 (VDS VGS3 VDD VDD) PU_TRANSISTOR width=wpu length=lpu

